US09216967B2
1,1-dimethylethyl {1,1-dimethyl-2-[(4-{[3-(methyloxy)phenyl]oxy}phenyl)amino]-2-oxoethyl}carbamate
To a solution of N-{[(1,1-dimethylethyl)oxy]carbonyl}-2-methylalanine (1.7 g, 8.36 mmol) in dry N,N-dimethylformamide (35 mL), DIPEA (2.434 mL, 13.94 mmol) and then TBTU (2.80 g, 8.71 mmol) were added and the reaction mixture was stirred for 15 minutes at room temperature. (4-{[3-(methyloxy)phenyl]oxy}phenyl)amine (1.5 g, 6.97 mmol) was then added and the reaction mixture was stirred overnight at the same temperature. The reaction was quenched with brine (100 mL) and extracted with ethyl acetate (twice 150 mL). The organic layer was washed with ice cold brine (3 times 100 mL), dried over sodium sulphate, filtered and evaporated. The residue was purified by silica gel chromatography (Biotage system, 100 g SNAP column) using as eluent a gradient and cyclohexane/ethyl acetate from 100/0 to 70/30 to afford the title compound as a white solid (1.90 g).

reactant | N-{[(1,1-dimethylethyl)oxy]carbonyl}-2-methylalanine | 8.36 mmol, 1.7 g | CC(C)(C)OC(=O)NC(C)(C(=O)O)C | C9H17NO4
reactant | DIPEA | 13.94 mmol, 2.434 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 8.71 mmol, 2.80 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | (4-{[3-(methyloxy)phenyl]oxy}phenyl)amine | 6.97 mmol, 1.5 g | COC=1C=C(C=CC1)OC1=CC=C(C=C1)N | C13H13NO2
solvent | N,N-dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
product | 1,1-dimethylethyl {1,1-dimethyl-2-[(4-{[3-(methyloxy)phenyl]oxy}phenyl)amino]-2-oxoethyl}carbamate | 1.90 g | CC(C(=O)NC1=CC=C(C=C1)OC1=CC(=CC=C1)OC)(C)NC(OC(C)(C)C)=O | C22H28N2O5
